US08420655B2
In a round bottom flask are combined 5-bromo-1-tert-butyl-2-(5-methoxy-2-pyrazol-1-yl-phenyl)-1H-benzimidazole (1.40 g, 3.29 mmol), bis(pinacolato)diboron (1.25 g, 4.94 mmol), and KOAc (0.97 g, 9.87 mmol) in 60 mL of propanol (45 mL)/water (15 mL). The solution is degassed with argon for 10 minutes. After this time, PdCl2(dppf) (269 mg, 0.33 mmol) catalyst is added. The reaction mixture is stirred at 90° C. for 48 hours and cooled to room temperature. The reaction mixture is poured into water and extracted with EtOAc (2×). The combined organics are dried (MgSO4), filtered, and concentrated. The residue is purified via flash chromatography (120 g silica gel, 30-80% EtOAc/heptane). Product-containing fractions are combined and concentrated to give 1-tert-butyl-2-(5-methoxy-2-pyrazol-1-yl-phenyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzimidazole (0.70 g, 45%) which is used without further purification.

reactant | 5-bromo-1-tert-butyl-2-(5-methoxy-2-pyrazol-1-yl-phenyl)-1H-benzimidazole | 3.29 mmol, 1.40 g | BrC1=CC2=C(N(C(=N2)C2=C(C=CC(=C2)OC)N2N=CC=C2)C(C)(C)C)C=C1 | C21H21BrN4O
reactant | bis(pinacolato)diboron | 4.94 mmol, 1.25 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 9.87 mmol, 0.97 g | CC(=O)[O-].[K+]
reactant | water | 15 mL | O | H2O
solvent | propanol | 60 mL | C(CC)O | C3H8O
catalyst | PdCl2(dppf) | 0.33 mmol, 269 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-tert-butyl-2-(5-methoxy-2-pyrazol-1-yl-phenyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzimidazole | 0.70 g, 45% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)C2=C(C=CC(=C2)OC)N2N=CC=C2 | C27H33BN4O3
